US09169242B2
Step 2: 5,5-Dimethyl-3-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4,5-dihydroisoxazole:
3-(3-bromo-4-methylphenyl)-5,5-dimethyl-4,5-dihydroisoxazole (250 mg, 0.93 mmol, 1.0 eq) was reacted with bis(pinacolato)diboron by following the procedure described hereinbefore in step 6 of intermediate I to afford 200 mg of the desired product as a white solid. 1HNMR (400 MHz, CDCl3) δ 7.91 (s, 1H), 7.73 (d, J=8.0 Hz, 1H), 7.21 (d, J=8.0 Hz, 1H), 3.16 (s, 2H), 2.57 (s, 3H), 1.49 (s, 6H), 1.36 (s, 12H); ESI-MS (m/z) 316 (MH)+.

reactant | 3-(3-bromo-4-methylphenyl)-5,5-dimethyl-4,5-dihydroisoxazole | 0.93 mmol, 250 mg, 1.0 eq | BrC=1C=C(C=CC1C)C1=NOC(C1)(C)C | C12H14BrNO
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 5,5-Dimethyl-3-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4,5-dihydroisoxazole | 200 mg | CC1(CC(=NO1)C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)C | C18H26BNO3
